US03954754
EXAMPLE 51: 5,6,7,8-Tetrahydro-3-(1-methylhydrazino)-6-(4-pentenoyl)pyrido[4,3-c]-pyridazine
12.3 G of 3-chloro-5,6,7,8-tetrahydro-6-(4-pentenoyl)pyrido[4,3-c]pyridazine and 50 cc of methylhydrazine are stirred at a bath temperature of 90° for 30 minutes. The crude title compound is obtained in crystalline form upon cooling the mixture with ice. The title compound has a M.P. of 128°-130° (decomp., from isopropanol).

reactant | 3-chloro-5,6,7,8-tetrahydro-6-(4-pentenoyl)pyrido[4,3-c]pyridazine | ClC1=CC2=C(N=N1)CCN(C2)C(CCC=C)=O | C12H14ClN3O
reactant | methylhydrazine | 50 cc | CNN | CH6N2
product | 5,6,7,8-Tetrahydro-3-(1-methylhydrazino)-6-(4-pentenoyl)pyrido[4,3-c]-pyridazine | CN(N)C1=CC2=C(N=N1)CCN(C2)C(CCC=C)=O | C13H19N5O
